US07588330B2
Into a reaction vessel were placed 56 g of glycidyl methacrylate, 48 g of p-hydroxybenzaldehyde, 2 g of pyridine and 1 g of N-nitroso-phenylhydroxylamine ammonium salt and reacted with stirring in a water bath at 80° C. for 8 hrs to obtain p-(3-methacryloxy-2-hydroxypropyloxy)benzaldehyde.

reactant | glycidyl methacrylate | 56 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | p-hydroxybenzaldehyde | 48 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | N-nitroso-phenylhydroxylamine ammonium salt | 1 g | [NH4+].N(=O)N(O)C1=CC=CC=C1
solvent | pyridine | 2 g | N1=CC=CC=C1 | C5H5N
product | p-(3-methacryloxy-2-hydroxypropyloxy)benzaldehyde | C(C(=C)C)(=O)OCC(COC1=CC=C(C=O)C=C1)O | C14H16O5
